US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-(4-{2-[(R)-2-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (200 mg), HOBt (1 eq.), EDAC (2 eq.), TEA (3 eq.) and (R)-3-(R)-1-pyrrolidin-2-ylmethyl-cyclopentanol (3 eq.) in DMF (4 mL) was stirred at rt for overnight. The reaction was diluted with DCM, washed with water (2×) and 10% sodium carbonate (2×). The DCM was dried, concentrated and purified on a silica gel column to give 21 mg of the titled compound. MS m/z 671 [M++1].

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 200 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 2 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | (R)-3-(R)-1-pyrrolidin-2-ylmethyl-cyclopentanol | 3 eq. | N1C(CCC1)C[C@@H]1C[C@@H](CC1)O | C10H19NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-(4-{2-[(R)-2-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 21 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CC(=O)N1[C@H](CCC1)CN1C[C@@H](CC1)O)C | C33H36Cl2N4O5S
